US05272171
A solution of 2,2-dimethyl-1,4-butanediol (8.01 g, 67.8 mmol) in dry THF (80 mL) was treated with t-butyldimethylsilyl chloride (10.2 g, 67.8 mmol) and imidazole (4.60 g, 67.6 mmol). After 24 h at room temperature, work-up with ethyl acetate and water followed by drying the organics and concentration gave a crude product, which was purified by silica gel flash chromatography (being eluted with 5% ethyl acetate in hexane) to afford 11.0 g (Y: 70%) of 4-t-butyldimethylsilyloxy-2,2-dimethyl-1-butanol (XXVIIb) as a colorless oil; 1H-NMR (DMSO-d6) δ ppm: 4.43 (t, 1H) 3.61 (t, 2H) 3.05 (d, J=2.7 Hz, 2H) 1.38 (t, 2H) 0.83 (s, 9H) 0.78 (s, 6H) 0.00(s, 6H); HRMS Calcd for C12H29O2Si (MH+): 233.1937, found: 233.1930.

reactant | 2,2-dimethyl-1,4-butanediol | 67.8 mmol, 8.01 g | CC(CO)(CCO)C | C6H14O2
reactant | t-butyldimethylsilyl chloride | 67.8 mmol, 10.2 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 67.6 mmol, 4.60 g | N1C=NC=C1 | C3H4N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-t-butyldimethylsilyloxy-2,2-dimethyl-1-butanol | 11.0 g, 70% | [Si](C)(C)(C(C)(C)C)OCCC(CO)(C)C | C12H28O2Si
